data/rdb19/train.csv
rxn,smiles,ea
1102,[C:14]([C:15]([C:16]([C:17]([H:27])([H:28])[H:29])([N:18]([C:19](=[O:20])[H:31])[H:30])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]1([H:12])[C:3]([H:4])([H:5])[O:7][C:6]1[O:8][H:13])([H:9])([H:10])[H:11]>>[C:1]([C:2]1=[C:6]([O:8][H:13])[O:7][C:3]1([H:4])[H:5])([H:9])([H:10])[H:11].[H:12][C:19]([N:18]([C:16]([C:15]([C:14]([H:21])([H:22])[H:23])([H:24])[H:25])([C:17]([H:27])([H:28])[H:29])[H:26])[H:30])([O:20])[H:31],50.457507343788166
4088,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[C:25]1([H:39])[C:24]([C:22]([C:21]([C:20]([H:30])([H:31])[H:32])([H:33])[H:34])([C:23]([H:36])([H:37])[H:38])[H:35])[C:29]([H:43])=[C:28]([H:42])[C:27]([H:41])=[C:26]1[H:40])([H:12])[H:13])([H:9])([H:10])[H:11],24.5460706736194
3807,[C:13]([C:14]([C:15]([C:16]([H:23])([H:24])[H:25])[C:17]([H:26])([H:27])[H:28])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])[H:7].[H:6][C:15]([C:14]([C:13]([H:18])([H:19])[H:20])([H:21])[H:22])([C:16]([H:23])([H:24])[H:25])[C:17]([H:26])([H:27])[H:28],24.82193698477932
908,[C:19]([C:20]([C:21]([H:22])[O:23][C:24](=[O:25])[C:26]([H:32])([H:33])[H:34])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6])([N:7]([H:17])[H:18])[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([H:30])[H:31])([H:22])[O:23][C:24](=[O:25])[C:26]([H:32])([H:33])[H:34])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],30.161760790331755
3850,[C:13]([C:14]([C:15]([H:25])([H:26])[H:27])([C:16]([H:17])[H:18])[C:19](=[O:20])[O:21][H:28])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])([H:7])[C:16]([C:14]([C:13]([H:22])([H:23])[H:24])([C:15]([H:25])([H:26])[H:27])[C:19](=[O:20])[O:21][H:28])([H:17])[H:18].[C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9],53.771192857122514
1187,[C:14]([O:15][C:16](=[O:17])[C:18](=[C:19]([H:24])[H:25])[C:20]([H:26])([H:27])[H:28])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:14]([O:15][C:16](=[O:17])[C:18](=[C:19][H:24])[C:20]([H:26])([H:27])[H:28])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[H:25])([H:11])[H:12])([H:8])([H:9])[H:10],30.97653626749525
5153,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[O:29][C:30](=[O:31])[C:32]([H:38])([H:39])[H:40])([H:36])[H:37])([H:33])([H:34])[H:35]>>[C:1]([C:2]([H:14])([H:15])[C:27]([C:26]([C:25]([H:33])([H:34])[H:35])([H:36])[H:37])([H:28])[O:29][C:30](=[O:31])[C:32]([H:38])([H:39])[H:40])([H:11])([H:12])[H:13].[C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16],54.473253101925366
1078,[C:14](=[C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14](=[C:15]([c:16]1[c:17]([H:25])[c:18][c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([H:5])[H:26])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],25.194158927013632
4565,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:17]([O:18][C:19]=[C:20]([H:25])[H:26])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[H:24])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12],23.887423715845216
815,[C:19]([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6])([N:7]([H:17])[H:18])[C:19]([H:20])([H:21])[H:22])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],29.808197604084853
3377,[C:13]([C:14]([C:15]([H:16])[H:17])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([H:8])([H:9])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:16])[H:17])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7],15.470352111558896
